US07598383B2
Step C: Preparation of 2-acetyl-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester:
A mixture of 4-chloro-1,5-dimethyl-6-oxo-2-trimethylsilanylethynyl-1,6-dihydropyridine-3-carboxylic acid ethyl ester (1.00 equivalent), HgSO4 (1.00 equivalent) and H2SO4 (2.00 equivalents) in ˜6:1 acetone:water is refluxed for 3 hours. The reaction mixture is cooled to room temperature and concentrated under reduced pressure. The residue is diluted with a mixture of THF and ethyl acetate and washed with water and brine. The organic layer is dried (MgSO4) and concentrated under reduced pressure. The desired product is obtained by flash column chromatography as necessary.

reactant | 4-chloro-1,5-dimethyl-6-oxo-2-trimethylsilanylethynyl-1,6-dihydropyridine-3-carboxylic acid ethyl ester | 1.00 equivalent | C(C)OC(=O)C1=C(N(C(C(=C1Cl)C)=O)C)C#C[Si](C)(C)C | C15H20ClNO3Si
reactant | H2SO4 | 2.00 equivalents | OS(=O)(=O)O | H2O4S
reactant | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 2-acetyl-4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(N(C(C(=C1Cl)C)=O)C)C(C)=O | C12H14ClNO4
